US07947727B2
Intermediate 3: 2-(Trifluoromethyl)-1,2,3-propanetriol
1,1,1-Trifluoro-3-[(benzyl)oxy]-2-{[(benzyl)oxy]methyl}-2-propanol (1.3 kg, 3.82 mol, 1.0 eq.) was placed in a 10 L flange flask equipped with a overhead stirrer, followed by ethanol (4.5 L). 10% palladium on carbon (27 g) was added under Argon atmosphere. The reaction was then subjected to hydrogenolysis at atmospheric pressure (6 balloons) and stirred overnight at 50° C. (the balloons were topped up repeatably during the day). 1H NMR showed completion of reaction had been reached after 1 week, required additional 10% palladium on carbon (4 g). The reaction mixture was filtered through a pad of celite and washed with ethanol (2.5 L). The filtrate was concentrated under reduced pressure to give an oil. This was placed under high vacuum overnight to obtain a solid material. Toluene (1.5 L) was added and the mixture heated until the solid dissolved (˜60° C.), 2 layers were observed. The mixture was stirred using a magnetic stirrer and cooled using an ice-water bath, where a solid precipitated. The solid was broken up and stirred for a further 30 minutes, then isolated by filtration. The solid was washed with toluene (250 ml) and petroleum ether (250 ml). The solid was dried under high vacuum overnight to yield desired product (465 g).

reactant | 1,1,1-Trifluoro-3-[(benzyl)oxy]-2-{[(benzyl)oxy]methyl}-2-propanol | 3.82 mol, 1.3 kg, 1.0 eq. | FC(C(COCC1=CC=CC=C1)(O)COCC1=CC=CC=C1)(F)F | C18H19F3O3
reactant | ethanol | 4.5 L | C(C)O | C2H6O
catalyst | palladium on carbon | 27 g | [Pd] | Pd
catalyst | palladium on carbon | 4 g | [Pd] | Pd
solvent | Toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | 2-(Trifluoromethyl)-1,2,3-propanetriol | 465 g | FC(C(CO)(CO)O)(F)F | C4H7F3O3
